US05130309
1-Ethyl-3-diphenylmethoxyazetidine
Following the procedure of Preparation 13, the title compound was prepared from 1,3-dichloro-2-diphenylmethoxypropane (44.0 g, 0.15 mol) and ethylamine (100 ml) in 47.5% yield; bp 135°-142° C./0.10 mm.

reactant | 1,3-dichloro-2-diphenylmethoxypropane | 0.15 mol, 44.0 g | ClCC(CCl)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C16H16Cl2O
reactant | ethylamine | 100 ml | C(C)N | C2H7N
product | 1-Ethyl-3-diphenylmethoxyazetidine | 47.5% yield | C(C)N1CC(C1)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C18H21NO
